US04764522
A solution of 22.6 g of 5-bromo-2-furancarboxylic acid chloride in 100 ml of methylene chloride was added dropwise within 20 minutes at 0°-8° to a solution, pre-cooled to 0°, of 11.0 g of monoacetyl-ethylenediamine in 250 ml of methylene chloride and 18 ml of triethylamine. The reaction mixture was stirred at room temperature overnight, suction filtered and washed with methylene chloride. There was obtained N-(2-acetamino ethyl)-5-bromo-2-furancarboxamide as pale beige crystals, m.p. 175°-176°.

reactant | 5-bromo-2-furancarboxylic acid chloride | 22.6 g | BrC1=CC=C(O1)C(=O)Cl | C5H2BrClO2
reactant | monoacetyl-ethylenediamine | 11.0 g | C(C)(=O)NCCN | C4H10N2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
product | N-(2-acetamino ethyl)-5-bromo-2-furancarboxamide | N(C(=O)C)CCNC(=O)C=1OC(=CC1)Br | C9H11BrN2O3
